US05061713
STAGE A: 3-(2-FLUOROBENZOYLAMINO)-2-CHLOROPYRIDINE
4.44 g (28 mmol) of 2-fluorobenzoyl chloride are added to 30 ml of anhydrous pyridine at 0° C. while the temperature is maintained below 5° C. 3 g of 3-amino-2-chloropyridine in 20 ml of pyridine are added with stirring using a pressure equalizing funnel. After being left overnight at room temperature, the reaction medium is poured into an ice/water mixture. The solid obtained is filtered off and washed several times with water.

reactant | 2-fluorobenzoyl chloride | 28 mmol, 4.44 g | FC1=C(C(=O)Cl)C=CC=C1 | C7H4ClFO
reactant | 3-amino-2-chloropyridine | 3 g | NC=1C(=NC=CC1)Cl | C5H5ClN2
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 3-(2-FLUOROBENZOYLAMINO)-2-CHLOROPYRIDINE | FC1=C(C(=O)NC=2C(=NC=CC2)Cl)C=CC=C1 | C12H8ClFN2O
